US07087599B2
SYNTHESIS OF 9a-BUTYL-7-HYDROXY-4-(4-HYDROXYPHENYL)-1,2,9,9a-TETRAHYDRO-3H-FLUOREN-3-ONE
An ice-cold solution of 9a-butyl-4-(4-hydroxy-phenyl)-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (29 mg, 0.08 mmol) in anhydrous CH2Cl2 (1 mL) was added to AlCl3 (96 mg, 0.72 mmol) contained in an ice cooled flask. The mixture was stirred at 0° C. under a nitrogen atmosphere and treated with 2-propanethiol (0.056 mL, 0.6 mmol). The resulting mixture was stirred at 0° C. for 5 minutes and at room temperature for 3.25 hours, then treated with ice (approx. 2 mL), 2N HCl (2 mL) and EtOAc (4 mL) and stirred for 15 minutes at room temperature. The EtOAc layer was separated, washed with 1N HCl and brine, dried over MgSO4, filtered, and evaporated under vacuum to give a yellow gum. This material was triturated with benzene to give, after filtration and drying under vacuum, 9a-butyl-7-hydroxy-4-(4-hydroxyphenyl)-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an off-white solid.

reactant | 9a-butyl-4-(4-hydroxy-phenyl)-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.08 mmol, 29 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)O)OC | C24H26O3
reactant | AlCl3 | 0.72 mmol, 96 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-propanethiol | 0.6 mmol, 0.056 mL | CC(C)S | C3H8S
reactant | HCl | 2N, 2 mL | Cl | ClH
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
product | 9a-BUTYL-7-HYDROXY-4-(4-HYDROXYPHENYL)-1,2,9,9a-TETRAHYDRO-3H-FLUOREN-3-ONE | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)O)O | C23H24O3
